US06265611B1
N-(3,4-dihydroxyphenethyl)-2-hydroxy-2-(4-hydroxy-3 methoxyphenyl)acetamide
2-(4-Hydroxy-3-methoxyphenyl)-2-hydroxyacetic acid (2 g, 10:1 mmol) and N-hydroxysuccinimide (1.16 g, 10.1 mmol) were dissolved in 1,4-dioxane (120 ml) under nitrogen. N,N′-dicyclohexylcarbodiimide (2.08 g, 0.1 mmol) was added to the mixture at room temperature, and the mixture was stirred at this temperature for 48 h. The by-product which precipitated out was filtered off, and the filtrate was evaporated under reduced pressure. The product was chromatographed on silica gel with the eluent ethyl acetate. The yield was 1.72 g (58%). A solution of 2-(3,4-dihydroxyphenyl)-ethylamine hydrochloride (385 mg, 2.03 mmol) in water (30 ml) was added to a solution of the product (500 mg, 1.69 mmol) in 30 ml of 1,4-dioxane under nitrogen, followed by sodium hydrogencarbonate (142 mg, 1.69 mmol). The mixture was stirred at 50° C. for 4 h, then rendered acidic using 10% strength hydrochloric acid, and the reaction solution was extracted 3 times with ethyl acetate (a total of 90 ml). The organic phase was washed with saturated NaCl solution, dried over Na2SO4 and filtered, and the filtrate was evaporated under reduced pressure. Purification was carried out by chromatography on silica gel using the eluent ethyl acetate. The yield was 231 mg of an amorphous, colorless solid (41% of theory).

reactant | 2-(4-Hydroxy-3-methoxyphenyl)-2-hydroxyacetic acid | 1 mmol, 2 g | OC1=C(C=C(C=C1)C(C(=O)O)O)OC | C9H10O5
reactant | N-hydroxysuccinimide | 10.1 mmol, 1.16 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N′-dicyclohexylcarbodiimide | 0.1 mmol, 2.08 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(3,4-dihydroxyphenyl)-ethylamine hydrochloride | 2.03 mmol, 385 mg | Cl.OC=1C=C(C=CC1O)CCN
reactant | sodium hydrogencarbonate | 1.69 mmol, 142 mg | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N-(3,4-dihydroxyphenethyl)-2-hydroxy-2-(4-hydroxy-3 methoxyphenyl)acetamide | OC=1C=C(CCNC(C(C2=CC(=C(C=C2)O)OC)O)=O)C=CC1O | C17H19NO6
